US04076829
11.5 g. 4-(2,3-epoxypropoxy)-2-hydroxymethyl-indole (see U.S. Pat. No. 3,705,907) were dissolved in 100 ml. pyridine. To this solution were added dropwise, while cooling to 0° - 5° C., 6.5 g. (6.7 ml.) pivaloyl chloride. After an hour, the reaction mixture was poured on to ice and extracted with diethyl ether. The ethereal solution was successively washed with dilute sulfuric acid, aqueous sodium bicarbonate solution and water. After drying and treating with active charcoal, the solution was filtered and evaporated. The residue (13 g.; 82% of theory) crystallized upon triturating with diethyl ether/ligroin to give 4-(2,3-epoxypropoxy)-2-pivaloyloxymethyl-indole; m.p. 129° - 131° C.

reactant | 4-(2,3-epoxypropoxy)-2-hydroxymethyl-indole | O1C(COC2=C3C=C(NC3=CC=C2)CO)C1 | C12H13NO3
reactant | pivaloyl chloride | 6.7 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(2,3-epoxypropoxy)-2-pivaloyloxymethyl-indole | O1C(COC2=C3C=C(NC3=CC=C2)COC(C(C)(C)C)=O)C1 | C17H21NO4
